US05401732
1-(tert-butyldimethylsilyloxy)-6-iodo-hexane
A solution of sodium iodide (13.5 g, 90 mmol) and 1-(tert-butyldimethylsilyloxy)-6-chloro-hexane (Preparation 20) (8.35 g, 22 mmol) in acetone (70 ml) was refluxed overnight. The reaction mixture was cooled to room temperature and filtered. The filtrate was worked-up (hexane) to give the desired compound as yellow oil.

reactant | sodium iodide | 90 mmol, 13.5 g | [I-].[Na+]
reactant | 1-(tert-butyldimethylsilyloxy)-6-chloro-hexane | 22 mmol, 8.35 g | [Si](C)(C)(C(C)(C)C)OCCCCCCCl | C12H27ClOSi
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 1-(tert-butyldimethylsilyloxy)-6-iodo-hexane | [Si](C)(C)(C(C)(C)C)OCCCCCCI | C12H27IOSi
